US07498341B2
1-Ethyl-8-methyl-6-(3-methylpyridin-2-ylamino)-4-oxo-1,4-dihydroquinolone-3-carboxylic acid
Methyl 1-ethyl-6-(4-methoxy-2-methylphenylamino)-8-methyl-4-oxo-1,4-dihydroquinolone-3-carboxylate (30 mg) was dissolved in 5 ml of dioxane, 2.5 equivalents of a 1 N NaOH solution were added, and the mixture was heated at 60° C. for 4 h. Removal of the solvent in vacuo was followed by chromatography on an HPLC system to purify the product. The pure product was isolated from the reaction solution by chromatography on an HPLC system. This entailed use of a Merck Purospher-RP18 column and an acetonitrile:water mixture as eluent; the initial acetonitrile content was 15% and rose to 95% over the course of 20 minutes.

reactant | Methyl 1-ethyl-6-(4-methoxy-2-methylphenylamino)-8-methyl-4-oxo-1,4-dihydroquinolone-3-carboxylate | 30 mg | C(C)N1C(C(C(C2=CC(=CC(=C12)C)NC1=C(C=C(C=C1)OC)C)=O)C(=O)OC)=O | C22H24N2O5
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 1-Ethyl-8-methyl-6-(3-methylpyridin-2-ylamino)-4-oxo-1,4-dihydroquinolone-3-carboxylic acid | C(C)N1C(C(C(C2=CC(=CC(=C12)C)NC1=NC=CC=C1C)=O)C(=O)O)=O | C19H19N3O4
